*******************************************************************************
*  Behavioral model of DuoPacks Trenchstop H7 with EMCON E7 Level 1 Version 2
*  for SPICE compatible simulators
*  (C) Copyright 2024 Infineon Tehnologies. All rights reserved.
*
*******************************************************************************
*  Model performance :
*  The Level 1 model is based on a behavioral description. The calibration is
*  done with respect to the latest datasheet content. The transient calibration
*  procedure is based on the "Dynamic test circuit", which is stated in the
*  latest datasheet using the information of parasitic elements and nominal
*  conditions given in the table "Switching Characteristic, Inductive Load".
*  The usage of the compact models is restricted to a temperature range between
*  25°C and the maximum allowed junction temperature, which is stated in the
*  corresponding data sheet. 
*  The static temperature of the model can be set by using the SPICE command
*  ".TEMP" in the simulator interface.
*******************************************************************************
* PINS:
* -----------------------------------------------------------------------------
* | PIN | DESCRIPTION
* -----------------------------------------------------------------------------
* | C   | IGBT collector for single devices and DuoPacks
* -----------------------------------------------------------------------------
* | G   | IGBT gate for single devices and DuoPacks
* -----------------------------------------------------------------------------
* | E   | IGBT emitter for single devices and DuoPacks
* -----------------------------------------------------------------------------
* | K   | IGBT Kelvin emitter sense for single devices and DuoPacks
* -----------------------------------------------------------------------------
*******************************************************************************
* Product		Device type		Vce/V	Ic/A	Package		L1-model name
* -----------------------------------------------------------------------------
* IKWH40N65EH7		DuoPack		650		40		PG-TO247-3	IKWH40N65EH7_L1
* IKWH50N65EH7		DuoPack		650		50		PG-TO247-3	IKWH50N65EH7_L1
* IKWH75N65EH7		DuoPack		650		75		PG-TO247-3	IKWH75N65EH7_L1
* IKWH100N65EH7		DuoPack		650		100		PG-TO247-3	IKWH100N65EH7_L1
* IKQ120N65EH7		DuoPack		650		120		PG-TO247-3	IKQ120N65EH7_L1
* IKQ150N65EH7		DuoPack		650		150		PG-TO247-3	IKQ150N65EH7_L1
* IKZA40N65EH7		DuoPack		650		40		PG-TO247-4	IKZA40N65EH7_L1
* IKZA50N65EH7		DuoPack		650		50		PG-TO247-4	IKZA50N65EH7_L1
* IKZA75N65EH7		DuoPack		650		75		PG-TO247-4	IKZA75N65EH7_L1
* IKZA100N65EH7		DuoPack		650		100		PG-TO247-4	IKZA100N65EH7_L1
* IKY120N65EH7		DuoPack		650		120		PG-TO247-4	IKY120N65EH7_L1
* IKY150N65EH7		DuoPack		650		150		PG-TO247-4	IKY150N65EH7_L1
*******************************************************************************
* DISCLAIMER
*
* INFINEON'S MODEL TERMS OF USE
*
* BY DOWNLOADING AND/OR USING THIS INFINEON MODEL ("MODEL"), THE USER
* (INCLUDING YOU) AGREES TO BE BOUND BY THE TERMS OF USE HERE STATED. IF USER
* DOES NOT AGREE TO ALL TERMS OF USE HERE STATED, USER SHALL NOT DOWNLOAD,
* USE OR COPY THE MODEL BUT IMMEDIATELY DELETE IT (TO THE EXTENT THAT IT
* WAS DOWNLOADED ALREADY).
*
* 1. SCOPE OF USE
* 1.1 Any use of this Model provided by Infineon Technologies AG is subject
*     to these Terms of Use.
* 1.2 This Model, provided by Infineon, does not fully represent all of the
*     specifications and operating characteristics of the product to which
*     this Model relates.
* 1.3 This Model only describes the characteristics of a typical product.
*     In all cases, the current data sheet information for a given product
*     is the final design guideline and the only actual performance
*     specification. Although this Model can be a useful tool to evaluate
*     the product performance, it cannot simulate the exact product performance
*     under all conditions and it is also not intended to replace
*     bread-boarding for final verification.
*
* 2. IMPORTANT NOTICE
* 2.1 Infineon Technologies AG ("Infineon") is not and cannot be aware of the
*     specific application of the Infineon's Model by User. However, Model may
*     from time to time be used by User in potentially harmful and/or life-
*     endangering applications such as traffic, logistic, medical, nuclear
*     or military applications or in other applications where failure of the
*     Model may predictably cause damage to persons' life or health or to
*     property (hereinafter "Critical Applications").
* 2.2 User acknowledges that Infineon has not specifically designed or
*     qualified the Model for Critical Applications that the Model may contain
*     errors and bugs and that User is required to qualify the Model for
*     Critical Applications pursuant to the applicable local quality, safety
*     and legal requirements before permitting or giving access to any such use.
*
* 3. CONFIDENTIAL INFORMATION
*     User shall treat ideas, concepts and information incorporated in the
*     Model, the documentation and the content of this Terms of Use (together
*     hereinafter "Confidential Information") confidential, not disclose it to
*     any third party unless otherwise agreed in writing between User and
*     Infineon, not use it for any other purposes than using the Model for
*     simulation and testing purposes only.
*
* 4. WARRANTY
* 4.1 User acknowledges that the Model is provided by Infineon under this Terms
*     of Use is provided free of charge and "AS IS" without any warranty or
*     liability of any kind and Infineon hereby expressly disclaims any
*     warranties or representations, whether express, implied, statutory or
*     otherwise, including but not limited to warranties of workmanship,
*     merchantability, fitness for a particular purpose, defects in the
*     Model, or non-infringement of third parties intellectual property rights.
* 4.2 Infineon reserves the right to make corrections, deletions, modifications,
*     enhancements, improvements and other changes to the Model at any time
*     or to move or discontinue any Model without notice.
*
* 5. LIABILITY
* 5.1 Nothing in this Terms of Use shall limit or exclude Infineon's liability
*     under mandatory liability laws, for injuries to life, body or health,
*     for fraudulent concealment of defects in the software, or in cases
*     of Infineon's intentional misconduct or gross negligence.
* 5.2 Without prejudice to Sections 5.1, in cases of Infineon's slight
*     negligent breach of obligations that restrict essential rights or duties
*     arising from the nature of this Terms of Use in a way that there is a
*     risk of non-achievement of the purpose of this Terms of Use or of an
*     obligation whose observance User regularly may trust in and whereas
*     compliance with only makes proper execution of this Terms of Use
*     possible, Infineon's liability shall be limited to the typically,
*     foreseeable damage.
* 5.3 Without prejudice to Sections 8.1 and 8.2, Infineon's liability under
*     this Agreement shall be excluded in all other cases.
*
* 6. EXPORT REGULATIONS
*     The User shall comply with all applicable national and international
*     laws and regulations, in particular the applicable export control
*     regulations and sanction programs. The User also agrees not to
*     export, re-export or transfer any software or technology developed
*     with or using information, software or technology offered by Infineon,
*     in violation of any applicable laws or regulations of the competent
*     authorities. Further, the User shall neither use any products,
*     information, software and technology offered by Infineon in or in
*     connection with nuclear technology or weapons of mass destruction
*     (nuclear, biological or chemical) and carriers thereof nor supply
*     military consignees.
*
* 7. TERMINATION OF USE PERMIT
*     If the User violates these Terms of Use, such User's permit to use
*     this Model terminates automatically. In addition, Infineon may
*     terminate the User's permit to use this Model at its discretion and
*     at any time regardless of any violation of these Terms of Use. In
*     any of the foregoing events, the User is obliged to immediately destroy
*     any content that has been downloaded or printed from Infineon's website.
*
* 8. MISCELLANEOUS
* 8.1 These Terms of Use are subject to the laws of the Federal Republic
*     of Germany with the exception of the United Nations on Purchase
*     Contracts on the International Sale of Goods dated April 11, 1980 (CISG).
*     The exclusive place of jurisdiction is Munich, Germany.
* 8.2 Should any provision in these Terms of Use be or become invalid, the
*     validity of all other provisions or agreements shall remain unaffected
*******************************************************************************
.SUBCKT IKWH40N65EH7_L1 C G E PARAMS: TJ= {TEMP} N59B3=0.088 N5BL0=0.06023 N5FXV=0 N5H0W=5E-9 N5I8Q=1.5E-9
+N5JYF=0.25
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X081S C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+N5KG0=1.5 N5LUB=0.4 N5LWW=1.05 N5MQG=0.5
+N5NHU=4E-3 N5NIE=-1.8E-5 N5P0C=0.4 N5Q9J=1E-12 N5QVA=1E-10 N5R1G=1.74
X08NI E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5W6H=3.059E+00
+N5WLJ=9.615E-04
+N5XB7=1.100E-06
+N5XVP=2.403E+00
+N5Y38=1.147E-03
+N5Y9G=7.783E-08
+N5YBP=3.939E-10
+N5Z3A=6.842E-08
+N6062=2.110E-10
.ENDS
 
.SUBCKT IKZA40N65EH7_L1 C G E K PARAMS: TJ= {TEMP} N59B3=0.088 N5BL0=0.06023 N5FXV=0 N5H0W=2.45E-9 N5I8Q=1.35E-9
+N5JYF=0.26
R0CIQ E1 N61NR  {1E-04}
L0EA0 N61NR K  {1E-09}
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R0HXH N61NR 0  {1E+08}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X081S C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+N635D=2E-9 KVTH=1.02 N5KG0=2.6 N66M9=0.9 N66NJ=1.055 N5LUB=0.37 N5LWW=1.1 N5MQG=0.5
+N69L9=-1 N6EXL=-3E-3 N5NHU=6.3E-3 N5NIE=-1.5E-5 N5Q9J=1E-8 N5QVA=2E-10
X08NI E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5W6H=3.820E+00
+N5WLJ=4.500E-04
+N5XB7=8.000E-07
+N6F9E=5.998E-05
+N6G9I=4.208E-07
+N5Y9G=1.400E-07
+N5YBP=7.500E-10
.ENDS
 
.SUBCKT IKWH50N65EH7_L1 C G E PARAMS: TJ= {TEMP} N59B3=0.1099 N5BL0=0.07356 N5FXV=0 N5H0W=4.5E-9 N5I8Q=1.5E-9
+N5JYF=0.325
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X0OEV C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+N5KG0=1.5 N5LUB=0.5 N5LWW=1.07 N5MQG=0.5
+N5NHU=4E-3 N5NIE=-2E-5 N5P0C=0.2 N5Q9J=1E-8 N5QVA=1E-10 N5R1G=1 N6GDC=2E-2
X0OGB E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5Y9G=7.600E-08
+N5YBP=3.250E-10
+N5Z3A=1.108E-07
+N6062=1.334E-11
.ENDS
 
.SUBCKT IKZA50N65EH7_L1 C G E K PARAMS: TJ= {TEMP} N59B3=0.1099 N5BL0=0.07356 N5FXV=0 N5H0W=2.3E-9 N5I8Q=2.3E-9
+N5JYF=0.3
R0CIQ E1 N61NR  {1E-04}
L0EA0 N61NR K  {1E-09}
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R0HXH N61NR 0  {1E+08}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X0OEV C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+N635D=2E-9 KVTH=1.02 N5KG0=3.4 N66M9=0.9 N66NJ=1.1 N5LUB=0.5 N5LWW=1.15 N5MQG=0.5
+N69L9=-2.6 N6EXL=-5E-3 N5NHU=6.3E-3 N5NIE=-2.5E-5 N5P0C=0.6284 N5Q9J=1E-8 N5QVA=2E-10 N5R1G=1 N6GDC=5.416E-3
X0OGB E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5WLJ=8.000E-04
+N5XB7=1.500E-06
+N5Y9G=8.000E-08
+N5YBP=6.000E-10
.ENDS
 
.SUBCKT IKWH75N65EH7_L1 C G E PARAMS: TJ= {TEMP} N59B3=0.1648 N5BL0=0.11363 N5FXV=0 N5H0W=4E-9 N5I8Q=1.5E-9
+N5JYF=0.5
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X11M8 C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+N5LUB=0.8 N5MQG=1.05
+N5NHU=1.6E-3 N5NIE=-7E-6 N5P0C=0.2 N5Q9J=1E-8 N5QVA=1E-10 N5R1G=1 N6GDC=6E-3
X16IV E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5Y9G=8.5E-08
.ENDS
 
.SUBCKT IKZA75N65EH7_L1 C G E K PARAMS: TJ= {TEMP} N59B3=0.1648 N5BL0=0.11363 N5FXV=0 N5H0W=3E-9 N5I8Q=2.3E-9
+N5JYF=0.4
R0CIQ E1 N61NR  {1E-04}
L0EA0 N61NR K  {1E-09}
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R0HXH N61NR 0  {1E+08}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X11M8 C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+N635D=2E-9 KVTH=1.02 N5KG0=3.4 N66M9=0.98 N66NJ=1.3 N5LUB=0.66
+N69L9=-2.3 N6EXL=-5.0E-3 N5NHU=6.3E-3 N5NIE=-2.25E-5 N5P0C=0.2 N5Q9J=1E-8 N5QVA=1E-10
X16IV E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5Y9G=7.000E-08
+N5YBP=4.355E-10
.ENDS
 
.SUBCKT IKWH100N65EH7_L1 C G E PARAMS: TJ= {TEMP} N59B3=0.2197 N5BL0=0.1515 N5FXV=0 N5H0W=3E-9 N5I8Q=1E-9
+N5JYF=0.67
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X1K4Y C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+N5P0C=0.2 N5Q9J=1E-8 N5QVA=1E-10
X1KV5 E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5W6H=2.889E+00
+N6LKC=1.421E+01
+N5WLJ=1.100E-03
+N5XB7=2.068E-06
+N5XVP=3.188E+00
+N5Y38=1.000E-05
.ENDS
 
.SUBCKT IKZA100N65EH7_L1 C G E K PARAMS: TJ= {TEMP} N59B3=0.2197 N5BL0=0.1515 N5FXV=0 N5H0W=3E-9 N5I8Q=1.5E-9
+N5JYF=0.6
R0CIQ E1 N61NR  {1E-04}
L0EA0 N61NR K  {1E-09}
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R0HXH N61NR 0  {1E+08}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X1K4Y C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+N635D=1.5E-9 KVTH=1 N5KG0=2.6 N66M9=0.94 N66NJ=0.92 N5LUB=0.98 N5LWW=1.32 N5MQG=0.45
+N69L9=-1.6 N6LKW=4E-3 N5NHU=5.8E-3 N5NIE=-2.1E-5 N5P0C=0.2 N5Q9J=1E-8 N5QVA=1E-10 N5R1G=5.5E-1 N6GDC=5.9E-3
X1KV5 E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5WLJ=7.800E-04
+N5Y9G=9.000E-08
+N5YBP=3.000E-10
.ENDS
 
.SUBCKT IKQ120N65EH7_L1 C G E PARAMS: TJ= {TEMP} N59B3=0.2638 N5BL0=0.1818 N5FXV=0 N5H0W=2.5E-9 N5I8Q=1.6E-9
+N5JYF=0.75
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X229H C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+KVTH=1.01 N5KG0=1.2 N5LUB=1.345 N5LWW=1.15 N5MQG=1.07
+N5NHU=2.4E-3 N5NIE=-0.9E-5 N5P0C=0.2 N5Q9J=1E-8 N5QVA=1E-10
X24YC E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5W6H=2.888E+00
+N6MC4=6.687E-04
+N6LKC=1.362E+01
+N5WLJ=1.074E-03
+N5XB7=1.858E-06
+N6F9E=6.424E-04
+N6G9I=6.505E-08
+N5XVP=3.188E+00
+N5Y38=6.997E-04
+N5Y9G=7.986E-08
+N5YBP=4.774E-10
+N5Z3A=8.426E-08
+N6062=1.254E-10
.ENDS
 
.SUBCKT IKY120N65EH7_L1 C G E K PARAMS: TJ= {TEMP} N59B3=0.2638 N5BL0=0.1818 N5FXV=0 N5H0W=0.5E-9 N5I8Q=1.6E-9
+N5JYF=0.75
R0CIQ E1 N61NR  {1E-04}
L0EA0 N61NR K  {1E-09}
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R0HXH N61NR 0  {1E+08}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X229H C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+N635D=1E-9 KVTH=1.03 N5KG0=2 N5LUB=1.345 N5LWW=1.1 N5MQG=0.72
+N69L9=-1.9 N6LKW=4E-3 N5NHU=4E-3 N5NIE=-1.3E-5 N5P0C=0.2 N5Q9J=1E-8 N5QVA=1E-10 N5R1G=5E-2 N6GDC=1E-3
X2HL0 E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5W6H=4.094E+00
+N5WLJ=2.868E-04
+N5XB7=2.200E-06
+N6F9E=8.303E-05
+N6G9I=8.618E-06
+N5XVP=3.144E+00
+N5Y38=4.664E-03
+N5Y9G=7.825E-08
.ENDS
 
.SUBCKT IKQ150N65EH7_L1 C G E PARAMS: TJ= {TEMP} N59B3=0.32998 N5BL0=0.2272 N5FXV=0 N5H0W=3.2E-9 N5I8Q=1.5E-9
+N5JYF=0.9
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X2NL6 C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+KVTH=0.99 N5KG0=1.1 N5LUB=1.345 N5LWW=1.2 N5MQG=0.8
+N5NHU=2E-3 N5NIE=-1E-5 N5P0C=0.2 N5Q9J=2E-8 N5QVA=2E-10
X2ODV E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5W6H=2.501E+00
+N6LKC=1.493E+01
+N5WLJ=1.423E-03
+N5XB7=2.271E-06
+N5XVP=2.716E+00
+N5Y38=1.119E-03
+N5Y9G=8.539E-08
+N5YBP=5.750E-10
.ENDS
 
.SUBCKT IKY150N65EH7_L1 C G E K PARAMS: TJ= {TEMP} N59B3=0.32998 N5BL0=0.2272 N5FXV=0 N5H0W=3E-9 N5I8Q=1.5E-9
+N5JYF=0.97
R0CIQ E1 N61NR  {1E-04}
L0EA0 N61NR K  {1E-09}
R01F2 E1 E2  {1E-06}
L0590 E2 E  {N5H0W}
R0HXH N61NR 0  {1E+08}
R06FP E1 0  {1E+08}
R07B3 E2 0  {1E+08}
X2NL6 C G E1 Z00OF PARAMS: TJ= {TJ} N59B3= { N59B3} N5FXV= {N5FXV} N5I8Q= {N5I8Q} N5JYF= {N5JYF}
+N635D=2.2E-9 KVTH=0.915 N5KG0=1.175 N66M9=0.9 N66NJ=1.05 N5LUB=1.345 N5LWW=1.25 N5MQG=0.8
+N69L9=-1.3 N5NHU=5.4E-3 N5NIE=-2.1E-5 N5P0C=0.3 N5QVA=1E-10 N5R1G=1.1 N6GDC=2E-3
X2ODV E1 C Z00XD PARAMS: TJ= {TJ} N5BL0= {N5BL0} N5FXV= {N5FXV} N5RPT= {N5I8Q} N5SAA= {N5JYF}
+N5W6H=3.043E+00
+N6LKC=1.442E+01
+N5WLJ=9.800E-04
+N5XB7=2.250E-06
+N5XVP=4.065E+00
+N5Y38=2.487E-05
+N5Y9G=7.825E-08
+N5YBP=5.000E-10
.ENDS
 
.SUBCKT Z00OF C G E PARAMS: TJ=25 N6MND=0.2197 N59B3=0.1 N5FXV=0 N6N2L=0 N635D=3E-09 N6N6E=0 N6NT9=0 N6PGK=0
+N6QIH=0
+N5I8Q=1E-09 N5JYF=1 KVTH=1 N5KG0=1 N66M9=1 N66NJ=1 N5LUB=1 N5LWW=1 N5MQG=1
+N6SFF=3.084E+00
+N6SSJ=0.000E+00
+N6TC2=9.875E+00
+N6TXI=1.780E+01
+N6V3T=1.290E+01
+N6V4R=1.987E-06
+N6VQB=7.058E+02
+N69L9=-1.500E+00
+N6W1U=4.841E+00
+N6EXL=-4.134E-03
+N6XII=9.989E-04
+N6YDD=8.701E+00
+N6LKW=4.430E-03
+N6YK0=1.527E-05
+N6YQ8=-9.604E-05
+N6Z7A=-1.334E-07
+N7202=2.436E-07
+N73YQ=-2.785E-07
+N5NHU=2.243E-04
+N5NIE=-2.928E-06
+N74YG=-2.710E-01
+N771T=-1.982E-01
+N773G=-7.411E-01
+N77RZ=-2.312E-03
+N790G=2.481E+00
+N79QN=-9.454E-03
+N7BF0=4.890E-10
+N7BZN=1.800E-01
+N7DOL=1.100E-09
+N7EMZ=1.900E-01
+N7GXO=2.376E-08
+N7HGM=1.000E-12
+N7J6U=4.000E-02
+N5P0C=6.284E-01
+N5Q9J=2.108E-12
+N5QVA=4.511E-10
+N5R1G=5.500E-01
+N6GDC=5.416E-03
.PARAM N7MEJ=2.9815E+02
.PARAM N7PSY=1.3806E-23
.PARAM N7PVS=1.6022E-19
.PARAM N7ROG=1.0000E+08
.PARAM KP= {N59B3*N5KG0*N6VQB*PWR((TJ+273.15)/N7MEJ,N69L9)}
.PARAM N7RS2= {KVTH*(N6W1U+N6EXL*(TJ+273.15-N7MEJ))}
.PARAM IS= {N59B3*N6XII*EXP((((TJ+273.15)/N7MEJ)-1)*N6YDD)}
.PARAM N7TA3= {N6SFF+N6SSJ*(TJ+273.15-N7MEJ)}
.PARAM N7VSH= {N6LKW+N6YK0*(TJ+273.15-N7MEJ)}
.PARAM N805S= {N6YQ8+N6Z7A*(TJ+273.15-N7MEJ)}
.PARAM N80YC= {N7202+N73YQ*(TJ+273.15-N7MEJ)}
.PARAM N81A1= {N5NHU+N5NIE*(TJ+273.15-N7MEJ)}
.PARAM N81A9= {N74YG+N771T*(TJ+273.15-N7MEJ)}
.PARAM N8230= {N773G+N77RZ*(TJ+273.15-N7MEJ)}
.PARAM N83P3= {N790G+N79QN*(TJ+273.15-N7MEJ)}
.PARAM N86Z3= {N6N6E+N6NT9*(TJ+273.15-N7MEJ)}
.PARAM N8F41= {N6PGK+N6QIH*(TJ+273.15-N7MEJ)}
.PARAM N8FND= {IF(N8GC9(N6TXI,N81A1,N81A9,N8230)>N8GC9(N6TC2,N81A1,N81A9,N8230),N6TC2,N6TXI)}
.PARAM N8KZ6= {IF(N8GC9(N6TXI,N81A1,N81A9,N8230)>N8GC9(N6TC2,N81A1,N81A9,N8230),N6TXI,N6TC2)}
.PARAM N8LD3= {IF(N8GC9(N6TXI,N83P3,N86Z3,N8F41)>N8GC9(N6TC2,N83P3,N86Z3,N8F41),N6TC2,N6TXI)}
.PARAM N8MV0= {IF(N8GC9(N6TXI,N83P3,N86Z3,N8F41)>N8GC9(N6TC2,N83P3,N86Z3,N8F41),N6TXI,N6TC2)}
.PARAM N8NQ3= {N5Q9J+N5QVA*(TJ+273.15-N7MEJ)}
.PARAM N8NRJ= {N5R1G+N6GDC*(TJ+273.15-N7MEJ)}
.FUNC N8PUD(N8Q94) {IF(N8Q94>=0,IF(N8Q94>50,(N8Q94-49)*EXP(50),EXP(N8Q94)),IF(ABS(N8Q94)>50,1/((ABS(N8Q94)-49)
+*EXP(50)),1/EXP(ABS(N8Q94))))}
.FUNC N8QCS(N8Q94) {(1-N8PUD(-2*N8Q94))/(1+N8PUD(-2*N8Q94))}
.FUNC N8RTX(N8Q94) {0.5*(N8PUD(N8Q94)+N8PUD(-N8Q94))}
.FUNC N8TCU(V,N8Q94,N8TKD,N8UU7) {N8Q94+N8TKD*V+N8UU7*PWR(V,2)}
.FUNC N8GC9(V,N8Q94,N8TKD,N8UU7) {N8Q94+N8TKD*N8PUD(N8UU7*V)}
.MODEL MA NMOS(KP= {KP} VTO= {N7RS2} LAMBDA= {N6V4R} TNOM= {TJ} T_ABS= {TJ})
M336X 2 N8WHL 1 1 MA
.MODEL N8XTV D(N= {N7TA3} IS= {IS} TNOM= {TJ} T_ABS= {TJ})
D36JK 5 4 N8XTV
.FUNC N8YJ0(V,N7VSH,N805S,N80YC) {MAX(MIN(N8TCU(V,N7VSH,N805S,N80YC),N8TCU(N6V3T,N7VSH,N805S,N80YC)),
+N8TCU(N6W1U+N6EXL*(175+273.15-N7MEJ),N7VSH,N805S,N80YC))}
E36MA 1 E1 VALUE= {I(V4B6D)*N8YJ0(V(N8WHL,E),N7VSH,N805S,N80YC)*N6MND/N59B3}
.FUNC N9187(V,N81A1,N81A9,N8230) {MAX(MIN(N8GC9(V,N81A1,N81A9,N8230),N8GC9(N8KZ6,N81A1,N81A9,N8230)),N8GC9
+(N8FND,N81A1,N81A9,N8230))}
.FUNC N91V2(V,N83P3,N86Z3,N8F41) {MAX(MIN(N8GC9(V,N83P3,N86Z3,N8F41),N8GC9(N8MV0,N83P3,N86Z3,N8F41)),N8GC9
+(N8LD3,N83P3,N86Z3,N8F41))}
.FUNC N92RE(N958J,N96AU,N83P3,N86Z3,N8F41,N81A1,N81A9,N8230) {(1-(1/(N8PUD(N958J-N91V2(N96AU,N83P3,N86Z3,N8F41)
+)+1)))*N9187(N96AU,N81A1,N81A9,N8230)}
E389P 2 3 VALUE= {I(V4B6D)*N92RE(V(C,E),V(N8WHL,E),N83P3,N86Z3,N8F41,N81A1,N81A9,N8230)*N6MND/N59B3}
.FUNC N97L5(V,N8Q94) {N6N2L*N59B3*N8Q94*(1+N8QCS(-100*(V)))/2}
.FUNC N9BMR(V) {(1+N8QCS(100*(V-4)))/2}
.FUNC N9BRX(V,N8Q94,N8TKD) {IF(N5FXV==1,MAX(N59B3*N8Q94*PWR(V+1E-5,-N8TKD),0),MAX(N59B3*N8Q94*PWR(V+1E-5,-1)
++N8TKD*1E-10,0))}
C398U E1 N8WHL  {N59B3*N66M9*N7GXO}
G39NG E1 N8WHL VALUE= {N97L5(V(N8WHL,E1),N7HGM)*I(V3G3O)*1E+09}
R3A0D E1 N8WHL  {N7ROG}
G3B4E 5 N8WHL VALUE= {N9BRX(MAX(V(5,N8WHL)-0.0,N7J6U),N66NJ*N7BF0,N5LUB*N7BZN)*I(V3TUM)*1E+09}
G3BFR 5 N8WHL VALUE= {N9BRX(MAX(V(5,N8WHL)-0.0,N7J6U),N5LWW*N7DOL,N5MQG*N7EMZ)*I(V3TUM)*1E+09*N9BMR(V(N8WHL,E1))
+}
R3BSX 5 N8WHL  {N7ROG}
G3BT3 5 E1 VALUE= {N9BRX(MAX(V(5,E1)-0.0,1E-2),N5I8Q,N5JYF)*I(V41J8)*1E+09}
R3EUU 5 E1  {N7ROG}
E3FOQ N9F35 0 VALUE= {V(E1,N8WHL)}
V3G3O N9F35 N9FZG  {0E+00}
C3LVQ N9FZG 0  {1E-09}
E3T8L N9GGD 0 VALUE= {V(5,N8WHL)}
V3TUM N9GGD N9K46  {0E+00}
C3UCL N9K46 0  {1E-09}
E40XD N9K8G 0 VALUE= {V(5,E1)}
V41J8 N9K8G N9KRK  {0E+00}
C441R N9KRK 0  {1E-09}
G44X9 5 11 VALUE= {MAX(ABS(I(V4E0B))-ABS(I(V4E7Y)),0)}
G457U 0 10 VALUE= {ABS(I(V4B6D))*N5P0C}
G4686 8 9 VALUE= {(V(8,0)*1E-06)/N8NQ3}
C47A0 0 8  {1E-06}
L480Y E E1  {N635D}
G4B4I N9MJL N8WHL VALUE= {V(N9MJL,N8WHL)/N8NRJ}
V4B6D 4 3  {0E+00}
V4DPB C 5  {00E+0}
V4E0B 9 0  {0E+00}
V4E7Y 10 8  {0E+00}
V4FJY 11 E1  {0E+00}
V4K6E G N9MJL  {0E+00}
R0HXH 5 0  {N7ROG}
R4N25 N8WHL E1  {N7ROG}
R4NQC 5 N8WHL  {N7ROG}
R4QNC 5 E1  {N7ROG}
R4QX6 8 0  {N7ROG}
R4QY2 E E1  {N7ROG}
R4RFI E1 0  {N7ROG}
.ENDS Z00OF
 
.SUBCKT Z00XD N9NJQ C PARAMS: TJ=25 N5BL0=0.1 N5FXV=1 N5RPT=1E-09 N5SAA=1
+N5W6H=3.235E+00
+N6MC4=5.576E-04
+N6LKC=1.240E+01
+N5WLJ=8.279E-04
+N5XB7=1.702E-06
+N6F9E=8.545E-04
+N6G9I=1.000E-08
+N5XVP=4.723E+00
+N5Y38=1.000E-05
+N5Y9G=7.825E-08
+N5YBP=6.355E-10
+N5Z3A=1.402E-07
+N6062=2.350E-12
.PARAM N7MEJ=2.982E+02
.PARAM N7ROG=1.0000E+08
.PARAM N9O1Y= {N5BL0*N6MC4*EXP((((TJ+273.15)/N7MEJ)-1)*N6LKC)}
.PARAM N9OCK= {(N5WLJ+N5XB7*(TJ+273.15-N7MEJ))/N5BL0}
.PARAM N9OH5= {(N6F9E+N6G9I*(TJ+273.15-N7MEJ))/N5BL0}
.PARAM N9R9U= {N5XVP+N5Y38*(TJ+273.15-N7MEJ)}
.PARAM N9RE4= {N5Y9G+N5YBP*(TJ+273.15-N7MEJ)}
.PARAM N9RFS= {N5Z3A+N6062*(TJ+273.15-N7MEJ)}
.FUNC N8PUD(N8Q94) {IF(N8Q94>=0,IF(N8Q94>50,(N8Q94-49)*EXP(50),EXP(N8Q94)),IF(ABS(N8Q94)>50,1/((ABS(N8Q94)-49)
+*EXP(50)),1/EXP(ABS(N8Q94))))}
.FUNC N8QCS(N8Q94) {(1-N8PUD(-2*N8Q94))/(1+N8PUD(-2*N8Q94))}
.MODEL N9S2L D(IS= {N9O1Y} N= {N5W6H} TNOM= {TJ} T_ABS= {TJ})
.MODEL N9STJ D(IBV= {N9O1Y} NBV= {1E12} BV=0.5 IS=1E-12 N=1E12 NBVL=1e12 NR=1e12)
D4SAE D1 D2 N9S2L
D4TQF D2 D1 N9STJ
.FUNC N9W8N(N9Y2M) {(1-((N8QCS(N9Y2M*N9OH5))/N9R9U))*N9OCK}
E4U1L D2 C VALUE= {I(V55IW)*N9W8N(I(V55IW))}
G4VA7 N9NJQ N9Y7W VALUE= {(I(V55IW)*N9RE4-V(N9ZMU,0)*1E-06)/N9RFS}
G4VLH 0 N9ZMU VALUE= {I(V55IW)-I(V56KE)}
G4W5H N9ZMU 0 VALUE= {(V(N9ZMU,0)*1E-6)/N9RE4}
C4X2M N9ZMU 0  {1E-06}
.FUNC NA10H(V,N8Q94,N8TKD) {IF(N5FXV==1,MAX(N5BL0*N8Q94*PWR(V+1E-02,-N8TKD),0),
+MAX(N5BL0*N8Q94/MAX(V+1E-02,1E-02)+N8TKD*1E-10,0))}
G4X55 C N9NJQ VALUE= {NA10H(MAX(V(C,N9NJQ),0),N5RPT,N5SAA)*I(V53B6)*1E+09}
R4YOB C N9NJQ  {N7ROG}
E4ZPW NA2A6 0 VALUE= {V(C,N9NJQ)}
V53B6 NA2A6 NA54M  {0E+00}
C54X0 NA54M 0  {1E-09}
V55IW N9NJQ D1  {0}
V56KE D2 N9Y7W  {0}
R57RU D1 D2  {N7ROG}
R58RP D1 0  {N7ROG}
R598R N9ZMU 0  {N7ROG}
.ENDS Z00XD
 
  ***********************************************************************************************************************************  
